US06414028B1
The ethyl 2-(N,N-dimethylamino)-propionate is preferably refluxed for about 2 hours in the presence of 10 percent stoichiometric excess 1-dodecanol and a catalytic amount of sodium methoxide (predissolved in toluene). During this process, the ethanol formed is removed from the reaction medium by azeotropic distillation. Following the reaction phase, the solids of the remaining mixture are filtered off, resulting in a DDAIP filtrate.

reactant | ethyl 2-(N,N-dimethylamino)-propionate | CN(C)C(C(=O)OCC)C | C7H15NO2
reactant | 1-dodecanol | C(CCCCCCCCCCC)O | C12H26O
reactant | sodium methoxide | C[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | DDAIP | CCCCCCCCCCCCOC(=O)C(C)N(C)C | C17H35NO2
